US04824848
7-(4-Chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 1-(4-chlorobenzyl)-6-(4-methylthiosemicarbazido)-3-propyluracil (4.8 g, 12.6 mM) in DMF (50 ml) was stirred at 100° C. for 40 hours. To the solution was added 50% methanol (20 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/methanol gave colorless crystals (2.8 g, 50%), m.p. 305°-307° C.

reactant | 1-(4-chlorobenzyl)-6-(4-methylthiosemicarbazido)-3-propyluracil | 12.6 mM, 4.8 g | ClC1=CC=C(CN2C(=O)N(C(=O)C=C2NNC(=S)NC)CCC)C=C1 | C16H20ClN5O2S
reactant | methanol | 20 ml | CO | CH4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-(4-Chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.8 g, 50% | ClC1=CC=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCC)=O)C=C1 | C16H18ClN5O2
